US06982348B2
To a solution of zinc chloride (14.8 g, 108.6 mmol) in diethyl ether (150 ml) was added sodium borohydride (8.22 g, 217 mmol) and the mixture was stirred at room temperature for 30 min. The insoluble material was filtered off. To the filtrate was added a solution of ethyl 3-(3-fluorophenyl)-3-oxo-2-((4-(trifluoromethyl)phenyl)methyl)propionate (20 g, 54.3 mmol) in diethyl ether (50 ml), and the mixture was stirred at room temperature for 30 min. 1N Hydrochloric acid was added to the reaction-solution under ice-cooling for quenching, water (200 ml) was added, and the mixture was extracted with ethyl acetate (300 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1-1:1) to give ethyl (2RS,3RS)-3-(3-fluorophenyl)-3-hydroxy-2-((4-(trifluoromethyl)phenyl)methyl)propionate (19.4 g, 96%) as a colorless oil.

reactant | sodium borohydride | 217 mmol, 8.22 g | [BH4-].[Na+]
reactant | ethyl 3-(3-fluorophenyl)-3-oxo-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 54.3 mmol, 20 g | FC=1C=C(C=CC1)C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)=O | C19H16F4O3
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
catalyst | zinc chloride | 108.6 mmol, 14.8 g | [Cl-].[Zn+2].[Cl-]
product | ethyl (2RS,3RS)-3-(3-fluorophenyl)-3-hydroxy-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 19.4 g, 96% | FC=1C=C(C=CC1)C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)O | C19H18F4O3
